US08912210B2
Step B: tert-Butyl[(3S,5S,6R)-5-(3-chlorophenyl)-6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate
A slurry of methyl 2-[(tert-butoxycarbonyl)amino]-4-(3-chlorophenyl)-5-oxohexanoate as a 1:1 racemic mixture of diastereomers (11.1 g, 30.0 mmol), 2,2,2-trifluoroethylamine (9.59 mL, 120 mmol), acetic acid (10.3 mL, 180 mmol), sodium triacetoxyborohydride (25.4 g, 120 mmol), and flame-dried 4 Å molecular sieves (50 g) in 1,2-dichloroethane (300 mL) was stirred at 23° C. for 8 h. Additional 2,2,2-trifluoroethylamine (9.59 mL, 120 mmol), acetic acid (10.3 mL, 180 mmol), and sodium triacetoxyborohydride (25.4 g, 120 mmol) were added and stirring was continued for 20 h. The reaction mixture was diluted with dichloromethane (200 mL) then poured into water (500 mL). Molecular sieves were removed by filtration, and the organic layer was washed with water (3×500 mL), dried over sodium sulfate, and concentrated. A solution of the residue in ethanol (200 mL) was stirred in the presence of solid potassium carbonate (12.4 g, 90 mmol) at 60° C. for 2 h, then 23° C. for 16 h. The bulk of the ethanol was removed under reduced pressure and the remaining slurry was then partitioned between water (500 mL) and ethyl acetate (300 mL). The organic layer was washed with brine, dried over sodium sulfate and concentrated. The residue was crystallized from a 2:1 mixture of hexane and ethyl ether to give the title compound as a racemate. The enantiomers were separated using normal-phase HPLC using a ChiralPak® AD column, eluting with 40% hexane in ethanol initially, stepping to 20% hexane in ethanol (0.1% diethylamine used as a modifier) to afford the title compound as the second enantiomer to elute. MS: m/z=421.2 (M+1).

reactant | methyl 2-[(tert-butoxycarbonyl)amino]-4-(3-chlorophenyl)-5-oxohexanoate | C(C)(C)(C)OC(=O)NC(C(=O)OC)CC(C(C)=O)C1=CC(=CC=C1)Cl | C18H24ClNO5
reactant | 2,2,2-trifluoroethylamine | 120 mmol, 9.59 mL | FC(CN)(F)F | C2H4F3N
reactant | acetic acid | 180 mmol, 10.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 120 mmol, 25.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 2,2,2-trifluoroethylamine | 120 mmol, 9.59 mL | FC(CN)(F)F | C2H4F3N
reactant | acetic acid | 180 mmol, 10.3 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 120 mmol, 25.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | potassium carbonate | 90 mmol, 12.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | water | 500 mL | O | H2O
product | tert-Butyl[(3S,5S,6R)-5-(3-chlorophenyl)-6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)piperidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=CC(=CC=C1)Cl)C)CC(F)(F)F)=O)=O | C19H24ClF3N2O3
